US08486967B2
b) 3-Morpholinopyridin-2-amine
To a solution of 4-(2-nitropyridin-3-yl)morpholine (155 mg, 741 μmol) in ethyl acetate was added Pd/C 10% (15.5 mg, 146 μmol) and the reaction was hydrogenated under an atmosphere of hydrogen for 3 hours at room temperature. The catalyst was filtered off, washed with ethyl acetate and the solvent was evaporated under reduced pressure. The title compound was obtained as a purple solid (128 mg, 96%).

reactant | 4-(2-nitropyridin-3-yl)morpholine | 741 μmol, 155 mg | [N+](=O)([O-])C1=NC=CC=C1N1CCOCC1 | C9H11N3O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 146 μmol, 15.5 mg | [Pd] | Pd
product | 3-Morpholinopyridin-2-amine | O1CCN(CC1)C=1C(=NC=CC1)N | C9H13N3O
